US07632875B2
2-Bromo-2-methyl-propionic acid 4-nitro-phenyl ester
4-Nitrophenol (8 gm, 56 mmol) in 100 ml anhydrous tetrahydrofuran was placed under a nitrogen atmosphere and cooled in an icebath. To this was added triethylamine (6.2 g, 61 mmol) followed by the dropwise addition of bromoisobutyryl bromide (14.1 g, 61 mmol) in 20 ml anhydrous tetrahydrofuran over 5 min. After stirring for 16 h, the solids were filtered off and the solution concentrated, and then recrystallized from 100 ml methanol to give 13.8 g yellow solid, >99% pure by HPLC.

reactant | 4-Nitrophenol | 56 mmol, 8 gm | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | triethylamine | 61 mmol, 6.2 g | C(C)N(CC)CC | C6H15N
reactant | bromoisobutyryl bromide | 61 mmol, 14.1 g | BrC(C(=O)Br)(C)C | C4H6Br2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-Bromo-2-methyl-propionic acid 4-nitro-phenyl ester | 13.8 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(C(C)(C)Br)=O | C10H10BrNO4
